US07932256B2
(S)-3,5-Dibromo-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one (18.1 g, 51.7 mmol) and 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine (9.70 mg, 51.7 mmol) were combined in a 2 L, 3-necked round bottom flask equipped with a thermometer and an addition funnel and placed under N2. THF (360 mL) was added and the mixture was cooled to 0° C. NaHMDS (109 mL, 109 mmol, 1 M in THF) was added dropwise via the addition funnel over 15 min (the internal temperature was maintained below 5° C.). After the addition was complete, the reaction mixture was stirred at 0° C. for an additional 30 min. The reaction was quenched by the addition of saturated aqueous NH4Cl (120 mL). The mixture was transferred to a separatory funnel containing water (100 mL) and the aqueous layer was extracted with ethyl acetate (3×250 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to afford (S)-5-bromo-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethylpyridin-3-ylamino]pyrazin-2(1H)-one (22.4 g, 95% yield) as a brown solid which was used in the next step without further purification: 1H NMR (400 MHz, CDCl3) δ 8.40 (s, 1H), 7.98 (s, 1H), 7.53 (s, 1H), 7.46 (t, J=73.7 Hz, 1H), 4.16-4.12 (m, 1H), 3.74 (dd, JAB=10.5, JAX=5.2 Hz, 1H), 3.66 (dd, JBA=10.3, JBX=3.3 Hz, 1H), 3.35 (s, 3H), 2.44 (s, 3H), 2.27 (s, 3H), 1.39-1.34 (m, 1H), 0.85-0.79 (m, 1H), 0.66-0.62 (m, 1H), 0.56-0.51 (m, 1H), 0.34-0.29 (m, 1H); HRMS (ESI) m/e 459.0864 [(M+H)+, calcd for C18H22N4O3BrF2 459.0843].

reactant | (S)-3,5-Dibromo-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one | 51.7 mmol, 18.1 g | BrC=1C(N(C=C(N1)Br)[C@H](COC)C1CC1)=O | C10H12Br2N2O2
reactant | 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine | 51.7 mmol, 9.70 mg | FC(OC1=C(C=C(C(=N1)C)N)C)F | C8H10F2N2O
reactant | NaHMDS | 109 mmol, 1 M, 109 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 360 mL | C1CCOC1 | C4H8O
product | (S)-5-bromo-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethylpyridin-3-ylamino]pyrazin-2(1H)-one | 22.4 g, 95% yield | BrC=1N=C(C(N(C1)C[C@@H](OC)C1CC1)=O)NC=1C(=NC(=C(C1)C)OC(F)F)C | C18H21BrF2N4O3
